US07163954B2
A mixture of 6-benzo[b]thiophen-2-yl-1-chloro-naphthalen-2-ol (3.19 g, 10.2 mmol) and cesium carbonate (6.8 g, 21 mmol) in acetone (100 mL) was stirred at ambient temperature for one hour and 15 minutes. Ethyl bromoacetate (1.4 mL, 12 mmol) was added, and the reaction mixture was stirred for 3.5 hours at ambient temperature. The insoluble solids were then filtered, and the filtrate was solvent evaporated. The residue was dissolved in hot chloroform and washed with water and brine. It was dried with anhydrous magnesium sulfate, filtered and solvent evaporated. The residue was then stirred in hexane for about ten minutes and filtered and rinsed with hexane. Drying at 65° C. in vacuo for two hours yielded (6-benzo[b]thiophen-2-yl-1-chloro-naphthalen-2-yloxy)-acetic acid ethyl ester as a light yellow solid (2.7 g, 67%): MP: 187–8° C.; Mass spectrum (+ES, [M+H]+) m/z 397/399. 1HNMR (500 MHz, DMSO-d6): δ8.34 (d, 1H, J=1.68 Hz), 8.21 (d, 1H, J=8.85 Hz), 8.13 (dd, 1H, J=8.93 and 1.76 Hz), 8.01–8.07 (m, 3H), 7.89–7.90 (m, 1H), 7.52 (d, 1H, J=9.15 Hz), 7.37–7.44 (m, 2H), 5.11 (s, 2H), 4.20 (q, 2H, J=7.12 Hz), 1.23 ppm (t, 3H, J=7.10 Hz). Elemental Analysis for C22H17ClO3S: Calcd: C, 66.58; H, 4.32; N, 0.00; Found: C, 66.43; H, 4.27; N, 0.00.

reactant | 6-benzo[b]thiophen-2-yl-1-chloro-naphthalen-2-ol | 10.2 mmol, 3.19 g | S1C2=C(C=C1C=1C=C3C=CC(=C(C3=CC1)Cl)O)C=CC=C2 | C18H11ClOS
reactant | cesium carbonate | 21 mmol, 6.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl bromoacetate | 12 mmol, 1.4 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | (6-benzo[b]thiophen-2-yl-1-chloro-naphthalen-2-yloxy)-acetic acid ethyl ester | 2.7 g, 67% | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=CC2=C(S1)C=CC=C2)Cl)=O | C22H17ClO3S
